US06037354
To a solution of trans-1-[4-(4-fluorophenyl)cyclohexyl]-(3R)-pyrrolidin-3-ylamine dihydrochloride (210 mg, 0.63 mmol) in dry tetrahydrofuran (4 mL) was added N,N-diisopropylethylamine (219 μL, 1.26 mmol) followed by (4S,5R)-4-(3,4-difluorophenyl)-2-oxo-5-(tetrahydropyran-2-yloxymethyl)-oxazolidine-3-carboxylic acid 4-nitrophenyl ester (300 mg, 0.63 mmol). The reaction mixture was stirred at ambient temperature for 18 h when the volatiles were removed under reduced pressure and residue dissolved in ethyl acetate (100 mL) and washed with 10% aqueous sodium carbonate solution (8×100 ml), brine (1×100 ml), dried over magnesium sulfate and filtered. The volatiles were removed under reduced pressure and the resulting oil was purified by pressurized silica gel chromatography (3:1 then 1:0 ethyl acetate:hexane to afford (4S,5R)-trans-4-(3,4-difluorophenyl)-5-(tetrahydropyran-2-yloxymethyl-2-oxo-oxazolidine-3-carboxylic acid {1-[4-(4-fluorophenyl)cyclohexyl]-(3R)-pyrrolidin-3-yl}amide as a white foam (153 mg, 0.25 mmol, 40%).

reactant | trans-1-[4-(4-fluorophenyl)cyclohexyl]-(3R)-pyrrolidin-3-ylamine dihydrochloride | 0.63 mmol, 210 mg | Cl.Cl.FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1C[C@@H](CC1)N
reactant | N,N-diisopropylethylamine | 1.26 mmol, 219 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4S,5R)-4-(3,4-difluorophenyl)-2-oxo-5-(tetrahydropyran-2-yloxymethyl)-oxazolidine-3-carboxylic acid 4-nitrophenyl ester | 0.63 mmol, 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(O[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)COC1OCCCC1)=O | C22H20F2N2O8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | tetrahydropyran-2-yloxymethyl-2-oxo-oxazolidine-3-carboxylic acid {1-[4-(4-fluorophenyl)cyclohexyl]-(3R)-pyrrolidin-3-yl}amide | 0.25 mmol, 153 mg, 40% | FC1=CC=C(C=C1)C1CCC(CC1)N1C[C@@H](CC1)NC(=O)N1C(OCC1COC1OCCCC1)=O | C26H36FN3O5
